US04465869
Into a round bottom flask having a capacity of 1 liter and equipped with a reflux condenser, a thermometer, a dropping funnel, and a stirring means, 120 g of a 50% sodium hydroxide solution (60 g (1.5 mole) as pure sodium hydroxide), 68 g (0.25 mole) of isostearyl alcohol [5,7,7-trimethyl-2-(1,3,3-trimethylbutyl) octanol], 200 ml of n-hexane, and 2.51 g (0.0075 mole) of stearyl trimethyl ammonium chloride, were introduced in this order. The reaction mixture was kept at a reaction temperature of 25° C. in a water bath, and while vigorously stirring the mixture at a stirring speed of 400 r.p.m., 93 g (1 mole) of epichlorohydrin was added dropwise from the dropping funnel. It took about 1.5 hours for the addition of the epichlorohydrin, and the reaction mixture was heated to 50° C. and stirred for about 8 hours at this temperature. After the completion of the reaction, the mixture was treated in a usual manner, whereupon 67.9 g (yield: 83%) of isostearyl glycidyl ether (5,7,7-trimethyl-2-(1,3,3-trimethylbutyl)-octyl glycidyl ether) was obtained.

reactant | sodium hydroxide | 1.5 mole, 60 g | [OH-].[Na+]
reactant | isostearyl alcohol | 0.25 mole, 68 g | C(CCCCCCCCCCCCCCC(C)C)O | C18H38O
reactant | epichlorohydrin | 1 mole, 93 g | C(Cl)C1CO1 | C3H5ClO
catalyst | stearyl trimethyl ammonium chloride | 0.0075 mole, 2.51 g | [Cl-].C(CCCCCCCCCCCCCCCCC)[N+](C)(C)C
solvent | n-hexane | 200 ml | CCCCCC | C6H14
product | isostearyl glycidyl ether | 67.9 g, yield: 83% | C(C1CO1)OCCCCCCCCCCCCCCCC(C)C | C21H42O2
